US08957070B2
Ethyl 2-{1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate
To a mixture of ethyl 2-[7-amino-1-(methoxymethyl)-1H-indol-2-yl]-1,3-thiazole-5-carboxylate (2.18 g) and pyridine (25 mL) was added thiophene-2-sulfonyl chloride (1.50 g) at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (2.19 g, yield 70%) was obtained as yellow crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). melting point 133-134° C.

reactant | ethyl 2-[7-amino-1-(methoxymethyl)-1H-indol-2-yl]-1,3-thiazole-5-carboxylate | 2.18 g | NC=1C=CC=C2C=C(N(C12)COC)C=1SC(=CN1)C(=O)OCC | C16H17N3O3S
reactant | thiophene-2-sulfonyl chloride | 1.50 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-{1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate | 2.19 g, yield 70% | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C=1SC(=CN1)C(=O)OCC | C20H19N3O5S3
